US06417203B1
tert-Butyl (3R)-3-Cyano-1-pyrrolidinecarboxylate
Potassium cyanide (5.80 g, 89.0 mmol) was added to a solution of tert-butyl (3S)-3-[(methylsulphonyl)oxy]-1-pyrrolidinecarboxylate (preparation 78) (9.35 g, 35.3 mmol) in dimethylsulphoxide (100 ml), and the reaction stired at room temperature for 18 hrs, and then at 100° C. for a further 24 hrs. The cooled mixture was poured into water and extracted well with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate:pentane (20:80) as eluant to give the title compound as an oil, (4.28 g, 62%).

reactant | Potassium cyanide | 89.0 mmol, 5.80 g | [C-]#N.[K+]
reactant | tert-butyl (3S)-3-[(methylsulphonyl)oxy]-1-pyrrolidinecarboxylate | 35.3 mmol, 9.35 g | CS(=O)(=O)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO5S
reactant | water | O | H2O
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
product | tert-Butyl (3R)-3-Cyano-1-pyrrolidinecarboxylate | 4.28 g, 62% | C(#N)[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H16N2O2
